US07906528B2
Synthesis of 5-(2,6-Diethyl-Phenyl)-1-(1-Propyl-Butyl)-1H-Pyrrolo[2,3-C]Pyridine
To a solution of 5-(2,6-diethyl-phenyl)-1H-pyrrolo[2,3-c]pyridine (32 mg, 0.13 mmol) in DMF (0.5 mL) is added NaH (95%, 6 mg). The reaction mixture is stirred at room temperature for 30 minutes, and 4-bromo-heptane (137 mg, 0.77 mmol) is added. The mixture is heated at 60° C. for three hours and cooled. To the mixture, water (2 mL) and EtOAc (2 mL) are added. The organic layer is separated, washed with water once and concentrated under reduced pressure. The residue is purified by PTLC (Hexane/EtOAc 4:1) to give the titled compound. 1H NMR: (CDCl3) 8.82 (s, 1H), 7.43 (s, 1H), 7.32 (d, 1H), 7.31 (t, 1H), 7.16 (d, 2H), 6.87 (s, 1H), 6.53 (d, 1H), 4.42 (m, 1H), 2.32-2.40 (m, 4H), 1.86-1.95 (m, 4H), 1.15-1.32 (m, 4H), 1.03 (t, 6H), 0.84 (m, 6H).

reactant | 5-(2,6-diethyl-phenyl)-1H-pyrrolo[2,3-c]pyridine | 0.13 mmol, 32 mg | C(C)C1=C(C(=CC=C1)CC)C=1C=C2C(=CN1)NC=C2 | C17H18N2
reactant | NaH | 6 mg | [H-].[Na+]
reactant | 4-bromo-heptane | 0.77 mmol, 137 mg | BrC(CCC)CCC | C7H15Br
reactant | water | 2 mL | O | H2O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
product | 5-(2,6-Diethyl-Phenyl)-1-(1-Propyl-Butyl)-1H-Pyrrolo[2,3-C]Pyridine | C(C)C1=C(C(=CC=C1)CC)C=1C=C2C(=CN1)N(C=C2)C(CCC)CCC | C24H32N2
